US07772244B2
(R)-3-(7-Methyl-1H-indazol-5-yl)-1-oxo-1-(4-(piperidin-1-yl)piperidin-1-yl)propan-2-yl 4-(8-fluoro-2-oxo-1,2-dihydroquinolin-3-yl)piperidine-1-carboxylate
(R)-3-(7-Methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-5-yl)-1-oxo-1-(4-(piperidin-1-yl)piperidin-1-yl)propan-2-yl 4-(8-fluoro-2-oxo-1,2-dihydroquinolin-3-yl)piperidine-1-carboxylate (122 mg, 0.16 mmol) was dissolved in ethyl acetate (2 mL). Hydrochloric acid (4 N in dioxane, 3.0 mL) was added to the mixture. The reaction was stirred at room temperature for 18 h. The reaction mixture was concentrated en vacuo and purified by preparatory HPLC. Organic solvents were removed from the product fractions. The remaining aqueous solution was made basic with aqueous sodium bicarbonate and was extracted with ethyl acetate (2×). The combined organic extracts were dried (magnesium sulfate), filtered, and concentrated in vacuo. The title compound was obtained as an off-white solid in 59% yield. 1H NMR (500 MHz, DMSO-d6): δ 13.03 (s, 1H), 11.78 (s, 1H), 7.99 (s, 1H), 7.70 (m, 1H), 7.46 (m, 3H), 7.34 (dd, J=10.81, 8.09, 1H), 7.15 (m, 1H), 7.06 (s, 1H), 5.43 (m, 1H), 4.34 (m, 1H), 4.17 (m, 1H), 3.88 (m, 1H), 3.06 (m, 2H), 2.97 (m, 2H), 2.83 (m, 3H), 2.50 (m, 3H), 2.36 (m, 2H), 2.27 (m, 1H), 2.05 (m, 2H), 1.82 (d, J=12.51, 2H), 1.68 (m, 1H), 1.39 (m, 10H), 0.78-0.26 (m, 1H). Mass spec.: 643.3425 (MH)+.

reactant | (R)-3-(7-Methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-5-yl)-1-oxo-1-(4-(piperidin-1-yl)piperidin-1-yl)propan-2-yl 4-(8-fluoro-2-oxo-1,2-dihydroquinolin-3-yl)piperidine-1-carboxylate | 0.16 mmol, 122 mg | FC=1C=CC=C2C=C(C(NC12)=O)C1CCN(CC1)C(=O)O[C@@H](C(N1CCC(CC1)N1CCCCC1)=O)CC1=CC2=CN(N=C2C(=C1)C)COCC[Si](C)(C)C | C42H57FN6O5Si
reactant | Hydrochloric acid | 4 N, 3.0 mL | Cl | ClH
solvent | ethyl acetate | 2 mL | C(C)(=O)OCC | C4H8O2
product | (R)-3-(7-Methyl-1H-indazol-5-yl)-1-oxo-1-(4-(piperidin-1-yl)piperidin-1-yl)propan-2-yl 4-(8-fluoro-2-oxo-1,2-dihydroquinolin-3-yl)piperidine-1-carboxylate | 59% yield | FC=1C=CC=C2C=C(C(NC12)=O)C1CCN(CC1)C(=O)O[C@@H](C(N1CCC(CC1)N1CCCCC1)=O)CC=1C=C2C=NNC2=C(C1)C | C36H43FN6O4
